US06521643B1
To a solution of 2,4-bis(N,N′-bis(tert-butoxycarbonyl)guanidino)-6-(4-methoxypyridin-2-yl)toluene (0.15 g) in dichloromethane (3 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 3 ml), and the mixture was stirred at room temperature for 24 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (50 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 2,4-diguanidino-6-(4-methoxypyridin-2-yl)toluene trihydrochloride (85 mg).

reactant | 2,4-bis(N,N′-bis(tert-butoxycarbonyl)guanidino)-6-(4-methoxypyridin-2-yl)toluene | 0.15 g | C(C)(C)(C)OC(=O)N(C(=NC(=O)OC(C)(C)C)N)C1=C(C(=CC(=C1)N(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)C1=NC=CC(=C1)OC)C | C35H51N7O9
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 3 ml | O1CCOCC1 | C4H8O2
product | 2,4-diguanidino-6-(4-methoxypyridin-2-yl)toluene trihydrochloride | 85 mg | Cl.Cl.Cl.N(C(=N)N)C1=C(C(=CC(=C1)NC(=N)N)C1=NC=CC(=C1)OC)C | InChI=1S/C15H19N7O.3ClH/c1-8-11(13-7-10(23-2)3-4-20-13)5-9(21-14(16)17)6-12(8)22-15(18)19;;;/h3-7H,1-2H3,(H4,16,17,21)(H4,18,19,22);3*1H
